US08629137B2
1-{1-[6-(4-methyl-2-oxo-2,3-dihydrobenzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
64 mg (0.22 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride, 64 mg (0.221 mmol) 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one and 0.174 mL (1.00 mmol) DIPEA were stirred overnight in 2.0 mL DMF at RT. The mixture was purified by preparative HPLC-MS. The fractions containing the product were combined, the organic solvent was eliminated i. vac. and the aqueous phase remaining was neutralised with 4N aqueous NaOH solution. The precipitate was suction filtered, washed with water and dried in the CAD.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride | 0.22 mmol, 64 mg | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 0.221 mmol, 64 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C13H8ClN3O3
reactant | DIPEA | 1.00 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(4-methyl-2-oxo-2,3-dihydrobenzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CC1=CC(=CC2=C1NC(O2)=O)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C24H21N7O4
